US07179823B1
A mixture of ethyl 3-[3-(4-fluorophenyl)-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (950 mg), 2-chloromethylquinoline hydrochloride (600 mg), potassium carbonate (700 mg) and N,N-dimethylformamide (15 ml) was stirred at 60° C. for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-(4-fluorophenyl)-1-[4-(2-quinolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (1210 mg, yield: 92%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl 3-[3-(4-fluorophenyl)-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 950 mg | FC1=CC=C(C=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C21H21FN2O3
reactant | 2-chloromethylquinoline hydrochloride | 600 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium carbonate | 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-(4-fluorophenyl)-1-[4-(2-quinolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 1210 mg, yield: 92% | FC1=CC=C(C=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C31H28FN3O3
